US06114532
a. Carbonic acid-(1-chloroethyl-4-nitrophenyl)-ester
To a solution of 12.6 g (90 mmol) of p-nitrophenol in 300 ml methylene chloride and 7.2 g (91 mmol) of pyridine, 14.2 g (99 mmol) of 1-chloroethyl chloroformate are added dropwise at -10° C. The solution is stirred for 72 hours at ambient temperature and then extracted with water and 0.5% sodium hydroxide solution. The combined organic extracts are dried and concentrated by evaporation. The residue is chromatographed on aluminium oxide and eluted with methylene chloride. The combined fractions are concentrated by evaporation, triturated with petroleum ether and suction filtered.

reactant | p-nitrophenol | 90 mmol, 12.6 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | pyridine | 91 mmol, 7.2 g | N1=CC=CC=C1 | C5H5N
reactant | 1-chloroethyl chloroformate | 99 mmol, 14.2 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Carbonic acid-(1-chloroethyl-4-nitrophenyl)-ester | ClC(C)C1=C(C=CC(=C1)[N+](=O)[O-])OC(O)=O | C9H8ClNO5
